US04739106
9.4 g (50 millimoles) of ethyl 4-carbamoyloxy-3-aminocrotonate and 15.4 g (50 millimoles) of β-ethoxyethyl 2-(m-nitrobenzylidene)acetoacetate were dissolved in 200 ml of isopropyl alcohol and reacted at a temperature of from 60° to 70° C. for 18 hours. The reaction mixture was concentrated under reduced pressure. The residue was crystallized from diisopropylether-hexane, whereby 12 g (yield: 54%) of 2-carbamoyloxymethyl-6-methyl-4-(m-nitrophenyl)-3-ethoxycarbonyl-5-(β-ethoxyethoxy)carbonyl-1,4-dihydropyridine in crystal form was obtained.

reactant | ethyl 4-carbamoyloxy-3-aminocrotonate | 50 millimoles, 9.4 g | C(N)(=O)OC/C(=C/C(=O)OCC)/N | C7H12N2O4
reactant | β-ethoxyethyl 2-(m-nitrobenzylidene)acetoacetate | 50 millimoles, 15.4 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OCCOCC)C(=O)C)C=CC1 | C15H17NO6
reactant | diisopropylether hexane | C(C)(C)OC(C)C.CCCCCC
solvent | isopropyl alcohol | 200 ml | C(C)(C)O | C3H8O
product | 2-carbamoyloxymethyl-6-methyl-4-(m-nitrophenyl)-3-ethoxycarbonyl-5-(β-ethoxyethoxy)carbonyl-1,4-dihydropyridine | 12 g, yield: 54% | C(N)(=O)OCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCOCC)C | C22H27N3O9
